US07893060B2
4-Hydroxy-2-methyl-thiazole-5-carboxylic acid ethyl ester
To a solution of thioacetamide (17.2 g, 0.229 mol) in toluene (130 mL) was added diethyl bromomalonate (55.0 g, 0.230 mol) and the mixture heated at reflux for 3 h. The reaction mixture was cooled to RT, filtered through Celite, then concentrated in vacuo. The resultant solid was triturated with hexane to give the title compound as a yellow solid (11.0 g, 26%).

reactant | thioacetamide | 0.229 mol, 17.2 g | C(C)(=S)N | C2H5NS
reactant | diethyl bromomalonate | 0.230 mol, 55.0 g | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
solvent | toluene | 130 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Hydroxy-2-methyl-thiazole-5-carboxylic acid ethyl ester | 11.0 g, 26% | C(C)OC(=O)C1=C(N=C(S1)C)O | C7H9NO3S
